US04766121
5-Bromo-2-methoxypyridine (41.36 g) (prepared by the method of I. Kompis et al, European Journal of Medicinal Chemistry 1977, 12, 531) in dry tetrahydrofuran (50 ml) was cooled to -85° with stirring under a nitrogen atmosphere. n-Butyl lithium (137 ml of a 1.6M hexane solution) in dry tetrahydrofuran (50 ml) was added dropwise, keeping the temperature below -80°. After stirring for 5 minutes, 2-methoxybenzaldehyde (25.0 g) in dry tetrahydrofuran (150 ml) was added dropwise with stirring, keeping the temperature below -70°. The mixture was stirred whilst allowing to warm to room temperature, then quenched with saturated ammonium chloride solution (150 ml). The organic layer was separated and the aqueous was further extracted with ethyl acetate. The organic layers were combined, dried with anhydrous magnesium sulphate and evaporated to dryness to give an orange gum which was crystallised from dichloromethane/petroleum spirit (60-80°) to give 1-(2-methoxyphenyl)-1-(6-methoxy-3-pyridyl)-methanol as a pale yellow solid (28.39 g, 63%) m.p. 83-84°.

reactant | 5-Bromo-2-methoxypyridine | 41.36 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | n-Butyl lithium | C(CCC)[Li]
reactant | hexane | 1.6M | CCCCCC | C6H14
reactant | 2-methoxybenzaldehyde | 25.0 g | COC1=C(C=O)C=CC=C1 | C8H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(2-methoxyphenyl)-1-(6-methoxy-3-pyridyl)-methanol | 28.39 g, 63% | COC1=C(C=CC=C1)C(O)C=1C=NC(=CC1)OC | C14H15NO3
